US06737421B1
a) 2-Amino-3-(4-methoxycyclohexylamino)benzamide
1.4 g (8.9 mmol) of 4-methoxycyclohexanecarboxylic acid were dissolved in 30 ml of tetrahydrofuran and, at 0° C., successively 1.9 g (1.8 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide×hydrochloride, 1.8 g (11.6 mmol) of N-hydroxybenzotriazole and 1.95 g (19.2 mmol) of triethylamine were added. The mixture was stirred for 1 hour. Then 2.0 g (8.9 mmol) of 2,3-diaminobenzamide×2 hydrochloride and 1.95 g (19.2 mmol) of triethylamine were added. The mixture was then stirred at 0° C. for 1 hour and at room temperature for 16 hours. The mixture was diluted with a large amount of water and extracted several times with ethyl acetate. The organic phases were combined, dried and concentrated in vacuo. 1.5 g of the product were obtained.

reactant | 4-methoxycyclohexanecarboxylic acid | 8.9 mmol, 1.4 g | COC1CCC(CC1)C(=O)O | C8H14O3
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide | 1.8 mmol, 1.9 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | hydrochloride | Cl | ClH
reactant | N-hydroxybenzotriazole | 11.6 mmol, 1.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 19.2 mmol, 1.95 g | C(C)N(CC)CC | C6H15N
reactant | 2,3-diaminobenzamide | 8.9 mmol, 2.0 g | NC1=C(C(=O)N)C=CC=C1N | C7H9N3O
reactant | triethylamine | 19.2 mmol, 1.95 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Amino-3-(4-methoxycyclohexylamino)benzamide | 1.5 g | NC1=C(C(=O)N)C=CC=C1NC1CCC(CC1)OC | C14H21N3O2
